US07323475B2
b) 4-Benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid
A mixture of 4-benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid benzyl ester (308 mg, 0.7 mmol), KOH (325 mg, 5 mmol) and EtOH (10 ml) was stirred at ambient temperature for 18 h before the solvent was evaporated in vacuo. To the residue was added water (25 ml) and the mixture was washed with Et2O (2×25 ml). Then the solution was acidified by addition of aqueous 6N HCl and extracted with EtOAc (2×25 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a yellowish gum (220 mg); MS-(+)-ion: M+1=351.0.

reactant | 4-benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid benzyl ester | 0.7 mmol, 308 mg | C(C1=CC=CC=C1)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C(N(C)C)=O | C27H24N2O4
reactant | KOH | 5 mmol, 325 mg | [OH-].[K+]
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-Benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid | 220 mg | C(C1=CC=CC=C1)OC1=C(N=C(C2=CC=CC=C12)C(N(C)C)=O)C(=O)O | C20H18N2O4
